US04757156
Preparation of tributylphosphine in an autoclave
A 90 liter-autoclave was charged with 9.6 kg (170 mol) butene-1 and 1.75 kg (51 mol) PH3 in the sequential order indicated. Next, the autoclave was heated to 80° C. and the addition of the toluene/ABIN-solution was started. 12 l toluene in which 170 g ABIN (2 mol %, based on PH3) was dissolved was pumped over a period of 2.5 hours into the reactor so that the temperature of the reaction mixture did not exceed 100° C. After a reaction period of 71/2 hours, the whole was allowed to cool and the crude product (18.3 kg) was given into a barrel scavenged with nitrogen.

reactant | butene-1 | 170 mol, 9.6 kg | CCC=C | C4H8
reactant | PH3 | 51 mol, 1.75 kg | P | H3P
solvent | toluene | 12 l | C1(=CC=CC=C1)C | C7H8
product | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
